US07001897B2
(2) (1R,5S,6S)-2-{1-[4-((3R)-pyrrolidin-3-ylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid
p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (410 mg, 0.508 mmol) (obtained as described in Example 58(1)) in a mixture of tetrahydrofuran (21 ml) and distilled water (21 ml) was subjected to catalytic hydrogenation in the presence of 20% palladium hydroxide on charcoal (410 mg) at room temperature for 4.5 hours. After checking the completion of the reaction, the reaction mixture was filtered and to the filtrate were added ethyl acetate and distilled water. The mixture was shaken in a separatory funnel. The aqueous layer was separated, washed with the above-mentioned mixed solvent and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→distilled water:acetonitrile (76:24)) and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-{1-[4-((3R)-pyrrolidin-3-ylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid (101 mg, yield 41%) as a white solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.508 mmol, 410 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2C[C@@H](CC2)NC(=O)C=2N=C(SC2)N2CC(C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C=C1 | C36H37N7O11S2
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-{1-[4-((3R)-pyrrolidin-3-ylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid | 101 mg, yield 41% | N1C[C@@H](CC1)NC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C | C21H27N5O5S2
